### PR TITLE
[Merged by Bors] - feat(DiscreteConvolution): add ring convolution definitions and properties

### PR DESCRIPTION
**Pull request by IlPreteRosso**
Continuation of PR #34191 

Adds ring convolution and its elementary properties.

Aligns the API with [Day convolution](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Monoidal/DayConvolution.html) structure. Although no idea how to bridge them right now.

### CODE REVIEW

**Comment by grunweg** [comment]
@j-loreaux Would you like to take a look at this PR also?

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 1]
```diff
@@ -209,6 +230,54 @@ lemma ConvolutionExistsAt.convolution_smul {c : S} {f : M → E} {g : M → E'}
...
+fiber is then finite. -/
+@[to_additive (dont_translate := S E E' F) addConvolutionExists_of_hasAntidiagonal
+  /-- Additive convolution exists whenever the index monoid has `Finset.HasAntidiagonal`, since
+  every fiber is then finite. -/]
+lemma convolutionExists_of_hasMulAntidiagonal
+    (L : E →ₗ[S] E' →ₗ[S] F) (f : M → E) (g : M → E') :
+    ConvolutionExists L f g := by
+  intro x
+  change Summable (fun ab : mulFiber x => L (f ab.1.1) (g ab.1.2))
+  simpa only [Function.comp_def] using
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
    ConvolutionExists L f g := fun x ↦ by
  simpa only [ConvolutionExistsAt, Function.comp_def] using
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 2]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+
+/-- Multiplication as an `ℕ`-bilinear map. -/
+def mulLinearMap : R →ₗ[ℕ] R →ₗ[ℕ] R :=
+  LinearMap.mk₂ ℕ (· * ·) add_mul
+    (fun n a b => by simpa using (AddMonoidHom.mulRight b).map_nsmul n a)
+    mul_add
+    (fun n a b => by simpa using (AddMonoidHom.mulLeft a).map_nsmul n b)
+
+@[simp]
+lemma mulLinearMap_apply (a b : R) : mulLinearMap a b = a * b := rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]: This already exists, you just need the right imports. It's `LinearMap.mul ℕ R`.
```suggestion
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 3]
```diff
@@ -9,13 +9,16 @@ public import Mathlib.Topology.Algebra.InfiniteSum.Basic
 public import Mathlib.Topology.Algebra.InfiniteSum.Constructions
 public import Mathlib.Topology.Algebra.InfiniteSum.Module
 public import Mathlib.Algebra.Module.LinearMap.Basic
+public import Mathlib.Algebra.Order.Antidiag.Prod
+public import Mathlib.LinearAlgebra.BilinearMap
 public import Mathlib.Data.Set.MulAntidiagonal
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean:14]:
```suggestion
public import Mathlib.Data.Set.MulAntidiagonal
public import Mathlib.Algebra.Algebra.Bilinear
public import Mathlib.GroupTheory.GroupAction.Ring
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 4]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+@[simp]
+lemma mulLinearMap_apply (a b : R) : mulLinearMap a b = a * b := rfl
+
+variable [Monoid M] [TopologicalSpace R]
+
+/-- The discrete convolution of two functions using multiplication to combine their values. -/
+@[to_additive (dont_translate := R) addRingConvolution
+  /-- The additive-index convolution using multiplication to combine values. -/]
+def ringConvolution (f g : M → R) : M → R :=
+  convolution mulLinearMap f g
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
  convolution (.mul ℕ R) f g
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 5]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+scoped notation:67 f:68 " ⋆ᵣ₊ " g:67 => addRingConvolution f g
+
+@[to_additive (dont_translate := R) (attr := simp) addRingConvolution_apply]
+lemma ringConvolution_apply (f g : M → R) (x : M) :
+    (f ⋆ᵣ g) x = ∑' ab : mulFiber x, f ab.1.1 * g ab.1.2 := rfl
+
+@[to_additive (dont_translate := R) (attr := simp) zero_addRingConvolution]
+lemma zero_ringConvolution (f : M → R) :
+    (0 : M → R) ⋆ᵣ f = 0 := by
+  simpa only [ringConvolution] using zero_convolution mulLinearMap f
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
  simpa only [ringConvolution] using zero_convolution (.mul ℕ R) f
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 6]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+
+@[to_additive (dont_translate := R) (attr := simp) addRingConvolution_zero]
+lemma ringConvolution_zero (f : M → R) :
+    f ⋆ᵣ (0 : M → R) = 0 := by
+  simpa only [ringConvolution] using convolution_zero mulLinearMap f
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
  simpa only [ringConvolution] using convolution_zero (.mul ℕ R) f
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 7]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+section RingConvolutionIdentity
+
+variable [Monoid M] [NonAssocSemiring R] [TopologicalSpace R]
+
+@[to_additive (dont_translate := R) (attr := simp) addDelta_addRingConvolution]
+lemma delta_ringConvolution (f : M → R) :
+    (delta 1) ⋆ᵣ f = f := by
+  simpa only [ringConvolution, delta] using
+    convolution_indicator_one_left mulLinearMap (1 : R) f
+      (fun y => by simp only [mulLinearMap_apply, one_mul])
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
  simpa only [ringConvolution, delta] using convolution_indicator_one_left (.mul ℕ R) 1 f (by simp)
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 8]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+
+@[to_additive (dont_translate := R) (attr := simp) addRingConvolution_addDelta]
+lemma ringConvolution_delta (f : M → R) :
+    f ⋆ᵣ (delta 1) = f := by
+  simpa only [ringConvolution, delta] using
+    convolution_indicator_one_right mulLinearMap f (1 : R)
+      (fun y => by simp only [mulLinearMap_apply, mul_one])
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
  simpa only [ringConvolution, delta] using convolution_indicator_one_right (.mul ℕ R) f 1 (by simp)
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 9]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+section RingConvolutionDistributivity
+
+variable [Monoid M] [NonUnitalNonAssocSemiring R]
+variable [TopologicalSpace R] [T2Space R] [ContinuousAdd R]
+
+@[to_additive (dont_translate := R) addRingConvolution_add]
+lemma ringConvolution_add (f g h : M → R)
+    (hfg : ConvolutionExists mulLinearMap f g) (hfh : ConvolutionExists mulLinearMap f h) :
+    f ⋆ᵣ (g + h) = f ⋆ᵣ g + f ⋆ᵣ h := by
+  simpa only [ringConvolution] using hfg.distrib_add mulLinearMap hfh
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
    (hfg : ConvolutionExists (.mul ℕ R) f g) (hfh : ConvolutionExists (.mul ℕ R) f h) :
    f ⋆ᵣ (g + h) = f ⋆ᵣ g + f ⋆ᵣ h := by
  simpa only [ringConvolution] using hfg.distrib_add (.mul ℕ R) hfh
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 10]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+
+@[to_additive (dont_translate := R) add_addRingConvolution]
+lemma add_ringConvolution (f g h : M → R)
+    (hfh : ConvolutionExists mulLinearMap f h) (hgh : ConvolutionExists mulLinearMap g h) :
+    (f + g) ⋆ᵣ h = f ⋆ᵣ h + g ⋆ᵣ h := by
+  simpa only [ringConvolution] using hfh.add_distrib mulLinearMap hgh
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
    (hfh : ConvolutionExists (.mul ℕ R) f h) (hgh : ConvolutionExists (.mul ℕ R) g h) :
    (f + g) ⋆ᵣ h = f ⋆ᵣ h + g ⋆ᵣ h := by
  simpa only [ringConvolution] using hfh.add_distrib (.mul ℕ R) hgh
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 11]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+
+/-- External scalar multiplication in the first factor commutes with convolution. -/
+@[to_additive (dont_translate := S R) smul_addRingConvolution]
+lemma smul_ringConvolution [IsScalarTower S R R] (c : S) (f g : M → R)
+    (hfg : ConvolutionExists mulLinearMap f g) :
+    (c • f) ⋆ᵣ g = c • (f ⋆ᵣ g) := by
+  ext x
+  simp only [ringConvolution_apply, Pi.smul_apply]
+  simp_rw [smul_mul_assoc]
+  simpa only [mulLinearMap_apply] using (hfg x).tsum_const_smul c
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
    (hfg : ConvolutionExists (.mul ℕ R) f g) :
    (c • f) ⋆ᵣ g = c • (f ⋆ᵣ g) := by
  ext; simpa [smul_mul_assoc] using (hfg _).tsum_const_smul c
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 12]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+
+/-- External scalar multiplication in the second factor commutes with convolution. -/
+@[to_additive (dont_translate := S R) addRingConvolution_smul]
+lemma ringConvolution_smul [SMulCommClass S R R] (c : S) (f g : M → R)
+    (hfg : ConvolutionExists mulLinearMap f g) :
+    f ⋆ᵣ (c • g) = c • (f ⋆ᵣ g) := by
+  ext x
+  simp only [ringConvolution_apply, Pi.smul_apply]
+  simp_rw [mul_smul_comm]
+  simpa only [mulLinearMap_apply] using (hfg x).tsum_const_smul c
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
    (hfg : ConvolutionExists (.mul ℕ R) f g) :
    f ⋆ᵣ (c • g) = c • (f ⋆ᵣ g) := by
  ext; simpa [mul_smul_comm] using (hfg _).tsum_const_smul c
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 13]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+section RingConvolutionCommutativity
+
+variable [CommMonoid M] [NonUnitalNonAssocCommSemiring R] [TopologicalSpace R]
+
+@[to_additive (dont_translate := R) addRingConvolution_comm]
+lemma ringConvolution_comm (f g : M → R) :
+    f ⋆ᵣ g = g ⋆ᵣ f := by
+  simpa only [ringConvolution] using
+    convolution_comm mulLinearMap f g
+      (fun x y => by simp only [mulLinearMap_apply, mul_comm])
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
  simpa only [ringConvolution] using convolution_comm (.mul ℕ R) f g (by simp [mul_comm])
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 14]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+variable [Monoid M] [NonUnitalNonAssocSemiring R] [TopologicalSpace R]
+variable [Finset.HasMulAntidiagonal M]
+
+/-- Multiplication convolution as a finite sum over the mulAntidiagonal. -/
+@[to_additive (dont_translate := R) addRingConvolution_eq_sum_antidiagonal
+  /-- Additive-index multiplication convolution as a finite sum over the antidiagonal. -/]
+lemma ringConvolution_eq_sum_mulAntidiagonal (f g : M → R) (x : M) :
+    (f ⋆ᵣ g) x = ∑ ab ∈ Finset.mulAntidiagonal x, f ab.1 * g ab.2 := by
+  simpa only [ringConvolution, mulLinearMap_apply] using
+    convolution_eq_sum_mulAntidiagonal mulLinearMap f g x
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]:
```suggestion
  simpa [ringConvolution] using convolution_eq_sum_mulAntidiagonal (.mul ℕ R) f g x
```

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean [hunk 15]
```diff
@@ -231,6 +300,160 @@ theorem convolution_comm (L : E →ₗ[S] E →ₗ[S] E) (f g : M → E) (hL : 
...
+
+section Delta
+
+variable [One M] [Zero E]
+
+/-- The function taking the value `e` at the multiplicative identity, and `0` elsewhere. -/
+@[to_additive addDelta
+  /-- The function taking the value `e` at the additive identity, and `0` elsewhere. -/]
+def delta (e : E) : M → E :=
+  Set.indicator {1} fun _ => e
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]: I'm not convinced this should exist. Maybe you should just be use `Pi.single 1 (fun _ ↦ e)` for this. There are some places where we have similar things though, e.g., [LSeries.delta](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/LSeries/Basic.html#LSeries.delta)

If we're going to keep it, it is missing some lemmas like `delta_apply`, `delta_apply_of_ne` or `delta_apply_one`.

**Review by j-loreaux — COMMENTED** [review]
some things I think are duplicated, but other than that it's reasonable.

File: Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean (hunk 15 above)
Comment (IlPreteRosso) [reply Mathlib/Topology/Algebra/InfiniteSum/DiscreteConvolution.lean]: adopted Pi.single approach.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge

**Comment by IlPreteRosso** [comment]
some automated tech debt cleaning PR messed with the file

**Comment by IlPreteRosso** [comment]
@j-loreaux Now that the new failed CI really confuses me. Looks like some github internal issue. Please help.

**Comment by IlPreteRosso** [comment]
Merge ready now. Updating with upstream breaks the variable declaration.

**Comment by j-loreaux** [comment]
bors merge
